US05385880
Synthesis of methyl-2-bromo-4-(4chlorophenyl)nicotinate
80.0 g (0.28 mol) of 1-cyano-1-methoxycarbonyl-4-(N,N-dimethylamino)-2-(4-chlorophenyl)-1,3-butadiene was weighed, and 100 ml of acetic acid was added thereto and an acetic acid solution of 25% HBr was then gradually added dropwise thereto at room temperature under stirring. After the dropwise addition, the resultant mixture was stirred at room temperature for 3 hours. The reaction mixture was then poured into ice water to precipitate a crystal. The crystal thus precipitated was filtrated out and washed with water and was dried to obtain 75.0 g of a white crystal of the aimed product.

reactant | 1-cyano-1-methoxycarbonyl-4-(N,N-dimethylamino)-2-(4-chlorophenyl)-1,3-butadiene | 0.28 mol, 80.0 g | C(#N)C(=C(C=CN(C)C)C1=CC=C(C=C1)Cl)C(=O)OC | C15H15ClN2O2
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | methyl-2-bromo-4-(4chlorophenyl)nicotinate | 75.0 g, Yield: 83.5% | COC(C1=C(N=CC=C1C1=CC=C(C=C1)Cl)Br)=O | C13H9BrClNO2
